US08217064B2
Ethyl-1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclopentane carboxylate (0.32 g, 0.64 mmol) was dissolved in 25 mL of MeOH/THF/H2O (10:10:5, vvl), LiOH (0.163 g, 3.88 mmol) was added. The reaction mixture was stirred for 5 h at room temperature and concentrated under reduced pressure. Water (10 mL) was added and the reaction mixture was extracted with EtOAc (3×10 mL). The combined organic phases were dried over Na2SO4, filtered and evaporated under reduced pressure. Purification by column chromatography over silica gel (DCM/MeOH, 95:5) gave the 1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclopentanecarboxylic acid (0.220 g, 73%) as a white solid. 1H NMR (500 MHz, CDCl3): δ 7.69 (d, 2H), 7.41 (d, 2H), 7.26 (s, 1H), 6.92 (s, 1H), 4.22 (q, 2H), 3.71 (m, 2H), 1.98 (m, 2H), 1.81 (m, 4H).

reactant | Ethyl-1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclopentane carboxylate | 0.64 mmol, 0.32 g | C(C)OC(=O)C1(CCCC1)C1=CC(=C(C(=C1)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)Cl | C23H21ClF6O3
reactant | LiOH | 3.88 mmol, 0.163 g | [Li+].[OH-]
solvent | MeOH THF H2O | 25 mL | CO.C1CCOC1.O
product | 1-(2-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-4-yl)cyclopentanecarboxylic acid | 0.220 g, 73% | ClC1=C(C(=CC(=C1)C1(CCCC1)C(=O)O)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C21H17ClF6O3
